US07235574B2
iii) 1-[2-(4-Allyloxy-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole
1.58 g (6.14 mmol) (4-allyloxy-phenyl)-methanethiol and 1.64 g (6.14 mmol) toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester were dissolved in 15 ml DMF and cooled to −30° C. 294 mg (12.3 mmol) 95% Sodium hydride were added, the mixture allowed to warm to r.t. and stirred for 12 h. 10 ml Water were added and the residue dissolved in dichloromethane. The organic phase was dried over Na2SO4, solvents removed and the remaining material purified by chromatography on silica gel (ethyl acetate/n-heptane 1:1) to yield 1.33 g (79%) yellow oil.

reactant | (4-allyloxy-phenyl)-methanethiol | 6.14 mmol, 1.58 g | C(C=C)OC1=CC=C(C=C1)CS | C10H12OS
reactant | toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester | 6.14 mmol, 1.64 g | N1(N=NC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C11H13N3O3S
reactant | Sodium hydride | 12.3 mmol, 294 mg | [H-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-(4-Allyloxy-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole | 1.33 g, 79% | C(C=C)OC1=CC=C(CSCCN2N=NC=C2)C=C1 | C14H17N3OS
